US06046213
1-(2,2-Diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one (the compound of Preparation 42, 4.70 g, 14.23 mmol) was dissolved in carbon tetrachloride (60 mL) and bromine (0.74 mL, 14.36 mmol in 10 mL of carbon tetrachloride) was added dropwise. The reaction was stirred at ambient temperature 30 min and then it was extracted with saturated aqueous bicarbonate solution. The organic phase was washed with water and brine, dried over magnesium sulfate, and concentrated to afford 5.58 g (96%) of 2-bromo-1-(2,2-diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one as a dark orange oil which had: NMR δ 7.68-7.37 (m, 12 H), 6.95 (d, J=8.3 Hz, 1 H), 5.21 (q, J=6.7 Hz, 1 H), 1.88 (d, J=6.6 Hz, 3 H).

reactant | 1-(2,2-Diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(CC)=O)C2=CC=CC=C2 | C22H18O3
reactant | bromine | 14.36 mmol, 0.74 mL | BrBr | Br2
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-1-(2,2-diphenyl-benzo(1,3)dioxol-5-yl)-propan-1-one | 5.58 g, 96% | BrC(C(=O)C1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C | C22H17BrO3
